US07378525B2
4-[4-(Tetrahydro-pyran-4-ylcarbamoyl)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid dimethylamide (F-21)
The title compound was prepared according to the general procedure in Scheme 11, substituting 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid (tetrahydro-pyran-4-yl)-amide for 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide, and dimethylcarbamyl chloride for ethyl chloroformate. Wt.: 125 mg (78%). 1H NMR (300 MHz, CDCl3) δ 8.8.59 (m, 1H), 8.29 (m, 1H), 8.23 (d, 1H), 7.69 (m, 2H), 7.58 (d, 1H), 6.17 (d, 1H), 4.82 (d, 1H), 4.32 (m, 1H), 4.03 (m, 2H), 3.57 (m, 2H), 3.40 (m, 2H), 3.25 (m, 1H), 2.73 (s, 6H), 2.64 (m, 2H), 2.10 (m, 2H), 1.61 (m, 4H), 1.27 (m, 2H); LC/MS m/z 489 (M+H)+.

reactant | 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-[4-(Tetrahydro-pyran-4-ylcarbamoyl)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)C(NC1CCOCC1)=O)C | C24H32N4O5S
